US04810713
N-[4-(3-Chloropropoxy)phenyl]acetamide
A mixture of 4-acetamidophenol, 182.2 g (1.2 mole), bromochloropropane, 157.4 g (1.0 mole), and potassium carbonate, 145.0 g (1.05 mole) was refluxed overnight in 700 ml of acetone. The acetone solution was refrigerated overnight and white crystals formed. This white solid was filtered and washed with acetone. The filtrate was stripped to dryness and the residue was dissolved in chloroform and extracted with 5% sodium hydroxide. Removal of chloroform gave an oil. The white solid was also dissolved in chloroform and extracted with 5% sodium hydroxide. Removal of chloroform gave a white solid. The white solid and oil were combined and placed in acetone in the refrigerator; white crystals were obtained. The white crystals were recrystallized twice from acetone. A 5 g sample of the white crystals was recrystallized from acetone. This furnished 1.76 g (after drying in vacuo overnight at 80° C.) (23%) of white crystalline product; m.p. 125°-127° C.

reactant | 4-acetamidophenol | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | bromochloropropane | BrC(CC)Cl | C3H6BrCl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 700 ml | CC(=O)C | C3H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(3-Chloropropoxy)phenyl]acetamide | ClCCCOC1=CC=C(C=C1)NC(C)=O | C11H14ClNO2
